US20010049385A1
5-((2-Phenoxybenzyloxy)methyl)-4,5,6,7-tetrahydro-1H-benzimidazole
A mixture of 5-((2-phenoxybenzyloxy)methyl)-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole and 5-((2-phenoxybenzyloxy)methyl)-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole (1.20 g, 2.1 mmol) was dissolved in a mixture of acetic acid (9 ml) and water (1 ml). The mixture was heated to 90° C. for 2 hours. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate (10 ml). a 3.5 M solution of hydrogen chloride in ethyl acetate (0.60 ml) was added. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using DCM/methanol/25% aqueous ammonia (first: 100:10:1, then 100:20:2) as eluent to give 74 mg of the title compound. For biological testing, the title compound was transferred into its hydrochloride salt by lyophilization of its solution in 0.1 N hydrochloric acid (40 ml).

reactant | 5-((2-phenoxybenzyloxy)methyl)-1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazole | O(C1=CC=CC=C1)C1=C(COCC2CC3=C(N(C=N3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC2)C=CC=C1 | C40H36N2O2
reactant | 5-((2-phenoxybenzyloxy)methyl)-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazole | 2.1 mmol, 1.20 g | O(C1=CC=CC=C1)C1=C(COCC2CC3=C(N=CN3C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)CC2)C=CC=C1 | C40H36N2O2
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
solvent | water | 1 ml | O | H2O
product | 5-((2-Phenoxybenzyloxy)methyl)-4,5,6,7-tetrahydro-1H-benzimidazole | 74 mg | O(C1=CC=CC=C1)C1=C(COCC2CC3=C(NC=N3)CC2)C=CC=C1 | C21H22N2O2
